US08278316B2
C. 5-((4-Chlorophenoxy)methyl)-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridazin-3(2H)-one
Pyridine (0.123 mL, 1.52 mmol) was added in portions over 4 hr to a stirred mixture of 5-((4-chlorophenoxy)methyl)pyridazin-3(2H)-one Part B (36 mg, 0.15 mmol), copper(II) acetate (91 mg, 0.46 mmol), and 4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenylboronic acid Part D of Procedure 4 (73.0 mg, 0.30 mmol) in CH2Cl2 (15 mL) at RT (flask left open to air). The mixture was poured into 3.0 N aqueous HCl (100 mL) and extracted with CH2Cl2. The CH2Cl2 layer was dried over Na2SO4 and concentrated. The crude product was purified by prep-HPLC (C18 column/H2O:MeOH:TFA 90:10:0.1 to 10:90:0.1 gradient) giving the title compound 5-((4-chlorophenoxy)methyl)-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridazin-3(2H)-one E-2 (25 mg, 38% yield) as an off-white solid. LC/MS 431 (M+H)+, tR 0.93 min (method 5); 1H NMR (500 MHz, Chloroform-D) δ ppm 7.94 (1H, d, J=1.92 Hz), 7.30 (2H, d), 7.12-7.17 (2H, m), 7.09 (1H, br. s.), 6.98 (1H, d, J=8.25 Hz), 6.91 (2H, d), 4.97 (2H, s), 3.82-3.92 (5H, m), 1.35 (6H, s).

reactant | Pyridine | 1.52 mmol, 0.123 mL | N1=CC=CC=C1 | C5H5N
reactant | 5-((4-chlorophenoxy)methyl)pyridazin-3(2H)-one | ClC1=CC=C(OCC2=CC(NN=C2)=O)C=C1 | C11H9ClN2O2
reactant | 4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenylboronic acid | OC(COC1=C(C=C(C=C1)B(O)O)OC)(C)C | C11H17BO5
reactant | HCl | 3.0 N, 100 mL | Cl | ClH
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 0.46 mmol, 91 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-((4-chlorophenoxy)methyl)-2-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridazin-3(2H)-one | ClC1=CC=C(OCC2=CC(N(N=C2)C2=CC(=C(C=C2)OCC(C)(C)O)OC)=O)C=C1 | C22H23ClN2O5
